US04058502
b. 1-n-Dodecylthio-2,3-propanediol
To a 300-ml flask was added 60.7 grams (0.30 mole) of n-dodecyl mercaptan and 0.63 grams (0.015 mole, 5 mole percent) of lithium hydroxide monohydrate catalyst. The mixture was stirred and heated to 90°-100° C. To this stirred solution was added dropwise over a 4.25 hour period 33.3 grams (0.45 mole) of glycidol. The reaction mixture was stirred and heated at 90°-95° C for an additional 21 hours. The product was isolated by vacuum distillation in a yield of 41.3 grams (50% of theory) boiling at 158°-178° C/0.05-0.15 mm.

reactant | n-dodecyl mercaptan | 0.30 mole, 60.7 grams | C(CCCCCCCCCCC)S | C12H26S
reactant | glycidol | 0.45 mole, 33.3 grams | C1C(O1)CO | C3H6O2
catalyst | lithium hydroxide monohydrate | 0.015 mole, 0.63 grams | O.[OH-].[Li+]
product | 1-n-Dodecylthio-2,3-propanediol | C(CCCCCCCCCCC)SCC(CO)O | C15H32O2S
